US08541418B2
Dissolved 1-(thiazol-2-yl)ethanone (1-BA-1, 5 g, 39.7 mmole) in DMF DMA (9.5 g, 2 eq). The resulting mixture was warmed to 100° C. until all the ketone starting material was consumed. This material was concentrated under reduced pressure to give 6.5 g of crude intermediate. This material was dissolved in 25 mL of DCM and 5 mL of HOAc was added, followed by hydrazine (5 g, 4 eq) at 0° C. The resulting mixture was heated at reflux until all the starting material was consumed. The reaction mixture was cooled to rt and neutralized with 30 mL of a saturated NaHCO3 solution. The layers were separated and the aqueous layer was extracted with DCM (2×50 mL). The organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure. The crude material was purified by MPLC (eluted with 0-20% MeOH/DCM) to give 2-(1H-pyrazol-5-yl)thiazole (Compound 2-BA-1, ˜6 g). LC/MS: 152.0 m/z (M+H)+.

reactant | 1-(thiazol-2-yl)ethanone | 39.7 mmole, 5 g | S1C(=NC=C1)C(C)=O | C5H5NOS
reactant | DMF DMA | 9.5 g, 2 eq | CN(C)C=O.CC(=O)N(C)C
reactant | HOAc | 5 mL | CC(=O)O | C2H4O2
reactant | hydrazine | 5 g, 4 eq | NN | H4N2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-(1H-pyrazol-5-yl)thiazole | ˜6 g | N1N=CC=C1C=1SC=CN1 | C6H5N3S
